US07713971B2
c) Ethyl 2-(4-hydroxy-phenoxy)-2-methyl-propionate (10c)
11 g of hydroquinone (100 mmol) in 100 ml of DMF is placed at 80° C. for 2 h. This mixture is cooled at ambient temperature then a solution of ethyl bromoisobutyrate (14.7 ml, 100 mmol) in 30 ml of DMF is added dropwise. The mixture is stirred for 3 h then the reaction medium is dry concentrated. The residue obtained is taken up in a 1 N HCl solution then extracted with AcOEt. The organic phases are washed with water, dried on MgSO4, then dry concentrated. The residue obtained is purified by flash chromatography on silica (petroleum ether:AcOEt 80:20). 9 g of oil corresponding to intermediate 10c are thus isolated (40% yield). TLC silica gel 60 F 254 Merck, petroleum ether:AcOEt 70:30, Rf=0.50.

reactant | hydroquinone | 100 mmol, 11 g | C1(O)=CC=C(O)C=C1 | C6H6O2
reactant | ethyl bromoisobutyrate | 100 mmol, 14.7 ml | BrC(C(=O)OCC)(C)C | C6H11BrO2
reactant | HCl | 1 N | Cl | ClH
solvent | DMF | 100 ml | CN(C)C=O | C3H7NO
solvent | DMF | 30 ml | CN(C)C=O | C3H7NO
product | Ethyl 2-(4-hydroxy-phenoxy)-2-methyl-propionate | 9 g, 40% yield | OC1=CC=C(OC(C(=O)OCC)(C)C)C=C1 | C12H16O4
